US06384080B1
To a solution of 2-(trans-4-hydroxycyclohexylamino)-5-nitrobenzoic acid (125 mg) in dimethylformamide (2 mL) were added 1-hydroxybenzotriazole (96.4 mg), benzylamine (0.063 mL) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (137 mg). The mixture was stirred for 3 hours at 20° C. The resulting mixture was diluted with ethyl acetate and washed successively with diluted hydrochloric acid, aqueous sodium bicarbonate and brine. The organic layer was dried over sodium sulfate and evaporated in vacuo. The resulting residue was triturated with methanol to give N-benzyl-2-(trans-4-hydroxycyclohexylamino)-5-nitrobenzamide (150 mg) as a solid substance.

reactant | 2-(trans-4-hydroxycyclohexylamino)-5-nitrobenzoic acid | 125 mg | O[C@@H]1CC[C@H](CC1)NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C13H16N2O5
reactant | 1-hydroxybenzotriazole | 96.4 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | benzylamine | 0.063 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 137 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-benzyl-2-(trans-4-hydroxycyclohexylamino)-5-nitrobenzamide | 150 mg | C(C1=CC=CC=C1)NC(C1=C(C=CC(=C1)[N+](=O)[O-])N[C@@H]1CC[C@H](CC1)O)=O | C20H23N3O4
